US05244889
(3R)-6-(Pivaloylthiomethyl)-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid (0.25 g, 0.64 mmol) is dissolved in dimethylformamide (5 ml) and cesium carbonate (0.23 g, 0.71 mmol) is added, followed by benzyl bromide (0.11 g, 0.64 mmol). The mixture is stirred overnight at room temperature, poured into water (300 ml) and extracted with ethyl acetate (2×100 ml). The combined organic layers are washed with water (2×100 ml), brine (1×200 ml), dried (MgSO4) and the solvent is evaporated. Silica gel chromatography (3% ethyl acetate/hexane) gives benzyl (3R)-6-(pivaloylthiomethyl)-5-oxo-1-thia-4-azacyclotridecane-3-carboxylate, m.p. 135°-137° C.

reactant | (3R)-6-(Pivaloylthiomethyl)-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid | 0.64 mmol, 0.25 g | C(C(C)(C)C)(=O)SCC1C(N[C@@H](CSCCCCCCC1)C(=O)O)=O | C18H31NO4S2
reactant | cesium carbonate | 0.71 mmol, 0.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 0.64 mmol, 0.11 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | benzyl (3R)-6-(pivaloylthiomethyl)-5-oxo-1-thia-4-azacyclotridecane-3-carboxylate | C(C(C)(C)C)(=O)SCC1C(N[C@@H](CSCCCCCCC1)C(=O)OCC1=CC=CC=C1)=O | C25H37NO4S2
